US08293736B2
1-(3-(2-(2-isopropyl-1H-benzo[d]imidazol-1-yl)-9-methyl-6-morpholino-9H-purin-8-yloxy)azetidin-1-yl)-2-methylpropan-2-ol 105
The mixture of 4-(8-(azetidin-3-yloxy)-2-(2-isopropyl-1H-benzo[d]imidazol-1-yl)-9-methyl-9H-purin-6-yl)morpholine (46.3 mg), isobutylene oxide (0.0183 mL), DMF (0.75 mL) and water (0.25 mL) was heated at 60° C. for 3 h. The contents were concentrated. Diluted aqueous Na2CO3 solution was added. The mixture was extracted with DCM (2×). The DCM extracts were dried with Na2SO4. The crude was purified with HPLC to give the product (17.2 mg). 1H NMR (400 MHz, CDCl3) δ 7.83 (dd, J=6.9, 2.0 Hz, 1H), 7.77 (dd, J=6.8, 1.9 Hz, 1H), 7.25-7.20 (m, 2H), 5.41 (p, J=5.8 Hz, 1H), 4.21 (s, 4H), 3.95 (ddd, J=20.5, 14.5, 7.9 Hz, 3H), 3.87-3.79 (m, 4H), 3.61 (s, 3H), 3.48-3.37 (m, 2H), 2.56 (s, 2H), 1.44 (d, J=6.8 Hz, 6H), 1.17 (s, 6H). LCMS: M+H+=521.3.

reactant | 4-(8-(azetidin-3-yloxy)-2-(2-isopropyl-1H-benzo[d]imidazol-1-yl)-9-methyl-9H-purin-6-yl)morpholine | 46.3 mg | N1CC(C1)OC=1N(C2=NC(=NC(=C2N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2)C(C)C)C | C23H28N8O2
reactant | isobutylene oxide | 0.0183 mL | CC1(C)CO1 | C4H8O
reactant | DMF | 0.75 mL | CN(C)C=O | C3H7NO
solvent | water | 0.25 mL | O | H2O
product | 1-(3-(2-(2-isopropyl-1H-benzo[d]imidazol-1-yl)-9-methyl-6-morpholino-9H-purin-8-yloxy)azetidin-1-yl)-2-methylpropan-2-ol | 17.2 mg | C(C)(C)C1=NC2=C(N1C1=NC(=C3N=C(N(C3=N1)C)OC1CN(C1)CC(C)(O)C)N1CCOCC1)C=CC=C2 | C27H36N8O3
